US06806265B2
a) Methyl 3′-hydroxy-[1,1′-biphenyl]-4-carboxylate
An aqueous 0.4 M Na2CO3 solution (21.7 mL) was added to a solution of 3-bromophenol (500 mg, 2.89 mmol) and 4-boronobenzoic acid (480 mg, 2.89 mmol) in MeCN (14.5 mL). The mixture was degassed with argon (10 min) then Pd(PPh3)4 (168 mg, 0.14 mmol) was added. The reaction mixture was heated to 90° C. for 12 h. The cooled mixture was acidified with aqueous 1 N HCl solution and extracted with EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. A solution of the residue in Et2O (150 mL) was treated with excess ethereal CH2N2 solution (ca. 0.6 M) then was concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 85:15) to give the title compound (375 mg, 57% yield) as a yellow solid.

reactant | Na2CO3 | 0.4 M, 21.7 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-bromophenol | 2.89 mmol, 500 mg | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 4-boronobenzoic acid | 2.89 mmol, 480 mg | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | HCl | 1 N | Cl | ClH
solvent | MeCN | 14.5 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.14 mmol, 168 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3′-hydroxy-[1,1′-biphenyl]-4-carboxylate | 375 mg, 57% yield | OC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C14H12O3
